datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[C:9]([S:10][H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:11])[H:6])([H:4])[H:5].[C:9]([S:10][H:14])([H:12])[H:13],71.9648
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16]([C:17]([H:24])([H:25])[H:26])([C:18](=[S:19])[H:27])[H:23])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:23])[H:8])([H:6])[H:7].[C:15]([C:16]([C:17]([H:24])([H:25])[H:26])[C:18](=[S:19])[H:27])([H:20])([H:21])[H:22],19.2464
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:16])[H:4].[C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])([H:17])[H:18],50.6264
[C:0]([O:1])([H:2])([H:3])[H:4].[C:5]([H:6])([H:7])[H:8]>>[C:0]([O:1][C:5]([H:6])([H:7])[H:8])([H:2])([H:3])[H:4],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35][H:36]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13].[H:11][O:35][H:36],4.075216
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:29][O:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([O:29][O:30])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12],-6.250896
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9]([C:10]([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([H:6])([H:7])[H:8])[C:10]([C:9]([H:18])([H:19])[H:20])([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28])[H:5],34.0996
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]#[N:6]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:5]#[N:6],-0.66944
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:9])[H:10])[H:8])[H:7].[H:11]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]=[C:6]([H:9])[H:10])[H:8])[H:11])[H:7],5.60656
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([S:9][H:14])[H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:8]([C:7]([H:10])([H:11])[H:12])([S:9][H:14])[H:13],29.288
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22](=[C:23]([H:25])[H:26])[H:24]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:13])[C:22](=[C:23]([H:25])[H:26])[H:24])([H:10])([H:11])[H:12],7.40568
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22])[H:18])([H:16])[H:17]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:12]([C:11](=[C:10]([H:16])[H:17])[H:18])([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22],131.796
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[H:7]>>[C:0]([C:1]([S:2])([H:6])[H:7])([H:3])([H:4])[H:5],4.76976
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:11]([H:12])([H:13])[H:14],4.6024
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]1([C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:20])[H:12])([H:10])[H:11],63.9315
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9](=[C:10]([c:11]1[c:12]([H:27])[c:13]([H:28])[c:14]([H:29])[c:15]([H:30])[c:16]1[H:31])[H:26])[c:17]1[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]1[H:36])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[C:10]([C:9]([C:8]([H:23])([H:24])[H:25])[c:17]1[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]1[H:36])([c:11]1[c:12]([H:27])[c:13]([H:28])[c:14]([H:29])[c:15]([H:30])[c:16]1[H:31])[H:26])([H:3])[H:4],12.4683
